US05623074
640 mg of 7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline was dissolved in 13 ml of 48% aqueous hydrogen bromide, and the mixture was heated under reflux under an argon gas stream for 3 hours. The reaction solution was cooled, and crystals which separated out were collected, affording 580 mg of 7-methoxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 7-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 640 mg | COC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)OC)OC | C18H21NO3
reactant | hydrogen bromide | 13 ml | Br | BrH
product | 7-methoxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 580 mg | Br.COC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)O)O | InChI=1S/C16H17NO3.BrH/c1-20-12-3-4-13-11(6-12)8-17-9-14(13)10-2-5-15(18)16(19)7-10;/h2-7,14,17-19H,8-9H2,1H3;1H
